US04061761
3-Ethyl-2-ethylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
17 g of 3-ethyl-2-ethylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide were suspended in 100 ml of methanol and shortly heated to boiling after the addition of 10 ml of triethyl amine. The solvent was distilled off under reduced pressure, 150 ml of water were added to the residue and the mixture was extracted with 200 ml of ethyl acetate. After drying the organic phase over sodium sulfate the solvent was distilled off under reduced pressure. The residue was dissolved in 100 ml of acetone, the solution was acidified with 15% ethanolic HCl and the oily precipitate of the end product was crystallized with acetone heated to 40° C.

reactant | 3-ethyl-2-ethylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | 17 g | Br.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCC
reactant | triethyl amine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | 3-Ethyl-2-ethylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCC | InChI=1S/C13H18ClN3O3S2.ClH/c1-3-16-12-17(4-2)13(18,8-21-12)9-5-6-10(14)11(7-9)22(15,19)20;/h5-7,18H,3-4,8H2,1-2H3,(H2,15,19,20);1H
